### PR TITLE
Update lean and mathlib to v4.29.0-rc8

### PR DESCRIPTION
**Pull request by srghma**

### CODE REVIEW

File: backends/lean/Aeneas/Std/Scalar/CheckedOps/Add.lean [hunk 1]
```diff
@@ -47,6 +47,9 @@ theorem «%S».checked_add_bv_spec (x y : «%S») :
   have := core.num.checked_add_UScalar_bv_spec x y
   simp_all [«%S».checked_add, UScalar.max, «%S».bv]
   cases h: core.num.checked_add_UScalar x y <;> simp_all [«%S».max, «%S».numBits]
+  obtain ⟨left, right⟩ := this
+  obtain ⟨left_1, right⟩ := right
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/CheckedOps/Add.lean:51]: Why do we need the `obtain`? `rfl` should suffice right?

File: backends/lean/Aeneas/Std/Scalar/CheckedOps/Add.lean [hunk 2]
```diff
@@ -68,6 +71,10 @@ theorem «%S».checked_add_bv_spec (x y : «%S») :
   | none => ¬ («%S».min ≤ x.val + y.val ∧ x.val + y.val ≤ «%S».max) := by
   have := core.num.checked_add_IScalar_bv_spec x y
   simp_all only [IScalar.min, IScalar.max, «%S».bv, «%S».min, «%S».max, «%S».numBits]
-  cases h: core.num.checked_add_IScalar x y <;> simp_all only [] <;> simp
+  cases h: core.num.checked_add_IScalar x y <;> simp_all
+  obtain ⟨left, right⟩ := this
+  obtain ⟨left_1, right⟩ := right
+  obtain ⟨left_2, right⟩ := right
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/CheckedOps/Add.lean:77]: Same question here: doesn't `rfl` suffice?

File: backends/lean/Aeneas/Std/Scalar/CheckedOps/Div.lean [hunk 3]
```diff
@@ -52,6 +52,9 @@ theorem «%S».checked_div_bv_spec (x y : «%S») :
   have := core.num.checked_div_UScalar_bv_spec x y
   simp_all [«%S».checked_div, «%S».bv]
   cases h: core.num.checked_div_UScalar x y <;> simp_all
+  obtain ⟨left, right⟩ := this
+  obtain ⟨left_1, right⟩ := right
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/CheckedOps/Div.lean:56]: Similar

File: backends/lean/Aeneas/Std/Scalar/CheckedOps/Mul.lean [hunk 4]
```diff
@@ -43,7 +43,10 @@ theorem «%S».checked_mul_bv_spec (x y : «%S») :
   | none => «%S».max < x.val * y.val := by
   have := core.num.checked_mul_UScalar_bv_spec x y
   simp_all only [«%S».checked_mul, UScalar.max, «%S».bv, «%S».max, «%S».numBits]
-  cases h: core.num.checked_mul_UScalar x y <;> simp_all only [and_self]
+  cases h: core.num.checked_mul_UScalar x y <;> simp_all
+  obtain ⟨left, right⟩ := this
+  obtain ⟨left_1, right⟩ := right
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/CheckedOps/Mul.lean:48]: Same

File: backends/lean/Aeneas/Std/Scalar/CheckedOps/Mul.lean [hunk 5]
```diff
@@ -63,6 +66,11 @@ theorem «%S».checked_mul_bv_spec (x y : «%S») :
   | none => ¬ («%S».min ≤ x.val * y.val ∧ x.val * y.val ≤ «%S».max) := by
   have := core.num.checked_mul_IScalar_bv_spec x y
   simp_all only [IScalar.min, IScalar.max, «%S».bv, «%S».min, «%S».max, «%S».numBits]
-  cases h: core.num.checked_mul_IScalar x y <;> simp_all only [not_false_eq_true, and_self]
+  cases h: core.num.checked_mul_IScalar x y <;> simp_all only [not_false_eq_true]
+  simp_all only [IScalarTy.I8_numBits_eq, Nat.add_one_sub_one, Int.reducePow, Int.reduceNeg, Int.reduceSub, true_and]
+  obtain ⟨left, right⟩ := this
+  obtain ⟨left_1, right⟩ := right
+  obtain ⟨left_2, right⟩ := right
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/CheckedOps/Mul.lean:73]: Same

File: backends/lean/Aeneas/Std/Scalar/CheckedOps/Rem.lean [hunk 6]
```diff
@@ -52,6 +52,9 @@ theorem «%S».checked_rem_bv_spec (x y : «%S») :
   have := core.num.checked_rem_UScalar_bv_spec x y
   simp_all [«%S».checked_rem, «%S».bv]
   cases h: core.num.checked_rem_UScalar x y <;> simp_all
+  obtain ⟨left, right⟩ := this
+  obtain ⟨left_1, right⟩ := right
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/CheckedOps/Rem.lean:56]: Same

File: backends/lean/Aeneas/Std/Scalar/CheckedOps/Sub.lean [hunk 7]
```diff
@@ -45,6 +45,9 @@ theorem «%S».checked_sub_bv_spec (x y : «%S») :
   have := core.num.checked_sub_UScalar_bv_spec x y
   simp_all [«%S».checked_sub, «%S».bv]
   cases h: core.num.checked_sub_UScalar x y <;> simp_all
+  obtain ⟨left, right⟩ := this
+  obtain ⟨left_1, right⟩ := right
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/CheckedOps/Sub.lean:49]: Same

File: backends/lean/Aeneas/Std/Scalar/CheckedOps/Sub.lean [hunk 8]
```diff
@@ -68,5 +71,11 @@ theorem «%S».checked_sub_bv_spec (x y : «%S») :
   have := core.num.checked_sub_IScalar_bv_spec x y
   simp_all only [IScalar.min, IScalar.max, «%S».bv, «%S».min, «%S».max, «%S».numBits]
   cases h: core.num.checked_sub_IScalar x y <;> simp_all only <;> simp
+  simp_all only [IScalarTy.I8_numBits_eq, Nat.add_one_sub_one, Int.reducePow, Int.reduceNeg, neg_le_sub_iff_le_add,
+    Int.reduceSub, tsub_le_iff_right]
+  obtain ⟨left, right⟩ := this
+  obtain ⟨left_1, right⟩ := right
+  obtain ⟨left_2, right⟩ := right
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/CheckedOps/Sub.lean:78]: Same

File: backends/lean/Aeneas/Std/Primitives.lean [hunk 9]
```diff
@@ -165,7 +165,7 @@ section Order
 open Lean.Order
 
 instance : PartialOrder (Result α) := inferInstanceAs (PartialOrder (FlatOrder .div))
-noncomputable instance : CCPO (Result α) := inferInstanceAs (CCPO (FlatOrder .div))
+noncomputable instance : CCPO (Result α) := inferInstanceAs (CCPO (FlatOrder Result.div))
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Primitives.lean:168]: This is suspicious: `.div` is properly resolved line above. What is the exact nameclash?

**Review by sonmarcho — COMMENTED** [review]
Sorry for taking so long to review: I've been extremely busy lately and I wanted to push some internal projects before having to consider bumping the version of Lean we use. I left a few minor comments.

**Comment by sonmarcho** [comment]
There is no activity in this PR and it is subsumed by https://github.com/AeneasVerif/aeneas/pull/979
